US05344843
As in Example 15, (E)-3-[3-(4-fluorophenyl)-1-(1-methylethyl)- 1H-indol-2-yl]-2-propen-1-ol (1.0 g) was reacted with 4-hydroxyphenylglyoxylic acid methyl ester (0.585 g) in the presence of diethyl azodicarboxylate (0.71 g) and triphenylphosphine (1.06 g) in tetrahydrofuran (30 mL). The crude reaction product, isolated in the usual manner, was purified by flash chromatography over silica gel (130 g; ethyl acetate-hexane; 1:4) to furnish 0.61 g of (E)-4-[3-[3-(4-fluorophenyl)-1-(1-methylethyl)-1H-indol-2-yl]-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid methyl ester as a yellow oil. A portion (0.2 g) was rechromatographed over silica gel (diethyl ether-hexane; 1:19) to furnish 0.225 g of the analytically pure ester as an oil.

reactant | (E)-3-[3-(4-fluorophenyl)-1-(1-methylethyl)- 1H-indol-2-yl]-2-propen-1-ol | 1.0 g | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)/C=C/CO | C20H20FNO
reactant | 4-hydroxyphenylglyoxylic acid methyl ester | 0.585 g | COC(C(=O)C1=CC=C(C=C1)O)=O | C9H8O4
reactant | diethyl azodicarboxylate | 0.71 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 1.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | alpha-oxobenzeneacetic acid methyl ester | COC(C(C1=CC=CC=C1)=O)=O | C9H8O3
